US06743794B2
Methyl 2-(3-{[4-(2-chloro-6-fluorophenyl)-2-methyl-3-furyl]carbonylamino}cyclohexyl)acetate
To a solution of methyl 2-(3-nitrocyclohexyl)acetate (13.8 g, 71.0 mmol) in 200 mL of acetic acid was added 6.9 g of PtO2. The mixture was hydrogenated overnight at ambient temperature and 60 psi, then was filtered through celite and concentrated to dryness. To a solution of the residue, 8.8 g (38.0 mmol) in 200 mL of dichloromethane was added 27 mL (190 mmol) of triethylamine and 10.4 g (38.0 mmol) of 3-(2-chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl chloride. The mixture was stirred overnight at ambient temperature then chloroform was added. The organics were washed with 0.5N HCl, saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated to dryness. The resulting residue was chromatographed on silica gel using 5% acetone/dichloromethane to yield 4.43 g (29%) of the desired mixture of isomers as a colorless, viscous oil. 1H—NMR is consistent with structure. MS (ion spray) 409.2 (M+1).

reactant | methyl 2-(3-nitrocyclohexyl)acetate | 71.0 mmol, 13.8 g | [N+](=O)([O-])C1CC(CCC1)CC(=O)OC | C9H15NO4
reactant | triethylamine | 190 mmol, 27 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl chloride | 38.0 mmol, 10.4 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | PtO2 | 6.9 g | O=[Pt]=O
product | Methyl 2-(3-{[4-(2-chloro-6-fluorophenyl)-2-methyl-3-furyl]carbonylamino}cyclohexyl)acetate | 4.43 g, 29% | ClC1=C(C(=CC=C1)F)C=1C(=C(OC1)C)C(=O)NC1CC(CCC1)CC(=O)OC | C21H23ClFNO4
